US09062076B2
A mixture of 6,7-dimethoxy-3,4-dihydronaphthalene-2-carbaldehyde (2.2 g, 10 mmol) in EtOH (30 mL) was treated with a solution of silver nitrate (5.0 g, 30 mmol) in water (16 mL). A solution of NaOH (6.0 g, 150 mmol) in water (50 mL) was then added with continuous stirring and the resulting mixture was stirred at room temperature overnight. The reaction mixture was then extracted with DCM and combined organic phase was washed with brine and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by flash column using petroleum ether/ethyl acetate (from 6:1 to 3:1, v:v) as the eluent to give 6,7-dimethoxy-3,4-dihydronaphthalene-2-carboxylic acid (1.8 g, 77%). LC-MS (ES-API); rt 8.23 min; m/z calculated for C13H14O4 [M+H]+ 235.1, found 235.0.

reactant | 6,7-dimethoxy-3,4-dihydronaphthalene-2-carbaldehyde | 10 mmol, 2.2 g | COC=1C=C2CCC(=CC2=CC1OC)C=O | C13H14O3
reactant | NaOH | 150 mmol, 6.0 g | [OH-].[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | water | 16 mL | O | H2O
solvent | water | 50 mL | O | H2O
catalyst | silver nitrate | 30 mmol, 5.0 g | [N+](=O)([O-])[O-].[Ag+]
product | 6,7-dimethoxy-3,4-dihydronaphthalene-2-carboxylic acid | 1.8 g, 77% | COC=1C=C2CCC(=CC2=CC1OC)C(=O)O | C13H14O4
